US08802678B2
A mixture of 85 mg (0.2 mmol) of N-(4-{2-[4-(3-cyanophenyl)piperazin-1-yl]ethyl}cyclohexyl)-4-methoxybutanamide, 2 mL of dimethyl sulfoxide, 16.5 mg of potassium carbonate and 0.12 mL of an aqueous 30% hydrogen peroxyde solution is stirred for 2 hours at room temperature. The suspension is poured into 50 mL of water. The solid is filtered, washed with water, dried under reduced pressure to give 15 mg (17%) of 3-(4-{2-[4-(4-methoxybutanylamino)cyclohexyl]ethyl}piperazin-1-yl)benzamide as a white solid.

reactant | N-(4-{2-[4-(3-cyanophenyl)piperazin-1-yl]ethyl}cyclohexyl)-4-methoxybutanamide | 0.2 mmol, 85 mg | C(#N)C=1C=C(C=CC1)N1CCN(CC1)CCC1CCC(CC1)NC(CCCOC)=O | C24H36N4O2
reactant | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
reactant | potassium carbonate | 16.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen | [H][H] | H2
solvent | water | 50 mL | O | H2O
product | 3-(4-{2-[4-(4-methoxybutanylamino)cyclohexyl]ethyl}piperazin-1-yl)benzamide | 15 mg, 17% | COCCCCNC1CCC(CC1)CCN1CCN(CC1)C=1C=C(C(=O)N)C=CC1 | C24H40N4O2
